Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man
with reported history of CAD with prior MI, current smoker who
presents for chest pain.

The patient reports that he awoke on the morning of presentation
and felt nauseated. He attributed this to the 5 beers that he
consumed yesterday. At around 1100, he then developed a
non-exertional crushing substernal chest discomfort that felt
like "a ton of bricks." This pain radiated to his left jaw and
down his left arm, and was associated with nausea and shortness
of breath. He took a SLN and his chest pain subsided after about
10 minutes. He then drank 4 more beers.

Of additional note, he tells me that he has a prior history of
heart attacks, he denies ever having stents placed. He reports
that his first "heart attack" was in the ___ when he lost
consciousness while driving a car; he was told that he would 
need
a pacemaker placed but he did not have this done. He also 
reports
that he had a heart attack in ___ for which he was seen at
___. He also reports that he was hospitalized 
twice
this winter, at ___ and ___, for pneumonia and COPD and that 
he
was told that he had a mild heart attack related to the
pneumonia. He has never had chest pain like the type that he
experienced today. He states that he takes aspirin and Plavix
every day; he is not sure why he takes the Plavix.

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Current smoker
 
2. CARDIAC HISTORY
- Reported prior history of CAD s/p MI; details unknown  
  
3. OTHER PAST MEDICAL HISTORY  
- COPD
- GERD
- Alcohol use disorder

 
Social History:
___
Family History:
FAMILY HISTORY:  
- Mother, deceased at ___ from MI
- Father, decreased at 41 from MI
 
Physical Exam:
Admission Exam:
===============
VS: 98.1 123/82 69 18 98 RA 
GENERAL: AOx3, in no acute distress
HEENT: PERRL, EOMI, anicteric sclerae, MMM.  
NECK: Supple. JVP of 5 cm.  
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops.
LUNGS: CTAB, no w/r/r
ABDOMEN: BS+, soft, NTND  
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

Discharge Exam:
===============
___ 0346 Temp: 98.1 PO BP: 106/69 R Lying HR: 52 RR: 17 O2
sat: 98% O2 delivery: Ra  
GENERAL: AOx3, in no acute distress   
CARDIAC: RRR. Normal S1, S2. No murmurs, 
LUNGS: CTAB, no w/r/r
ABDOMEN: BS+, soft, NTND  
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
Admission Labs:
===============
___ 03:20PM BLOOD WBC-6.9 RBC-4.56* Hgb-14.3 Hct-44.1 
MCV-97 MCH-31.4 MCHC-32.4 RDW-13.4 RDWSD-48.0* Plt ___
___ 03:20PM BLOOD ___ PTT-32.4 ___
___ 03:20PM BLOOD ALT-11 AST-27 AlkPhos-52 TotBili-0.3
___ 05:38AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.1
___ 03:20PM BLOOD Triglyc-124 HDL-61 CHOL/HD-3.0 LDLcalc-95

Cardiac Enzymes:
=================
___ 03:20PM BLOOD cTropnT-<0.01
___ 11:48PM BLOOD cTropnT-<0.01
___ 05:38AM BLOOD cTropnT-<0.01

Reports:
=======
The left atrial volume index is normal. A prominent Eustacian 
valve is present (normal variant). There is no evidence for an 
atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg.
There is normal left ventricular wall thickness with a normal 
cavity size. There is normal regional left ventricular systolic 
function. Global left ventricular systolic function is low 
normal. Quantitative biplane left
ventricular ejection fraction is 51 %. No ventricular septal 
defect is seen. There is no resting left ventricular outflow 
tract gradient. Mildly dilated right ventricular cavity with 
normal free wall motion. The aortic sinus is mildly dilated with 
normal ascending aorta diameter. The aortic arch diameter is 
normal. There is no evidence for an aortic arch coarctation. The 
aortic valve leaflets (3) appear structurally normal. There is 
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is normal. There is no
pericardial effusion.

IMPRESSION: Good image quality. Normal left ventricular wall 
thickness and cavity size with low normal global and normal 
regional systolic function. Mildly dilated right ventricle with 
normal systolic function. No
pathologic valvular flow. Compared with the prior TTE (images 
not available for review) of ___, the findings are 
similar.

PMIBI ___:
IMPRESSION: No anginal type symptoms or significant ST segment 
changes 
in the setting of a baseline RBBB and repolarization 
abnormalities. 
Good functional capacity. Nuclear report sent separately 

FINDINGS: 
  
The image quality is adequate but limited due to soft tissue 
attenuation.  There 
is activity adjacent to the heart in the rest images.  
  
Left ventricular cavity size is increased.  
  
Resting and stress perfusion images reveal uniform tracer uptake 
throughout the 
left ventricular myocardium. 

Discharge Labs:
===============
___ 05:38AM BLOOD WBC-6.0 RBC-4.37* Hgb-13.7 Hct-42.2 
MCV-97 MCH-31.4 MCHC-32.5 RDW-13.6 RDWSD-48.4* Plt ___
___ 05:38AM BLOOD Glucose-86 UreaN-13 Creat-0.8 Na-140 
K-4.7 Cl-105 HCO3-23 AnGap-12
 
Brief Hospital Course:
Mr. ___ is a ___ man with reported history of CAD 
and reported history of MI who presented for evaluation for 
chest pain. Underwent nuclear stress testing with no perfusion 
defects.

==============
ACTIVE ISSUES:
==============

# Chest Pain: 
The patient has a reported history of CAD and MI. He receives 
most of his care from ___ and recently has 
established care with his cardiologist Dr. ___ 
after having a type II NSTEMI as ___ and was 
started on aspirin and plavix. The patient recently saw Dr. 
___ in ___ where his Plavix was discontinued as his 
NSTEMI was attributed to demand ischemia and not coronary 
disease. On review of the records, the patient has not had 
coronary angiography. The patient EKG was without ishemic 
changes. Troponin were negative X3. He underwent nuclear stress 
test which showed no anginal type symptoms or significant ST 
segment changes in the setting of a baseline RBBB and 
repolarization abnormalities. Good functional capacity. Nuclear 
showed normal myocardial perfusion at the level of exercise 
achieved with Increased left ventricular cavity size. The 
patient was also found to have mild systolic dysfunction with 
global hypokinesis. The patient was subsequently discharged with 
followup with his PCP and cardiologist as below and received 
scripts for his home medications. No medications were added.

# Alcohol use disorder: Patient reports daily drinking. He was 
monitored on CIWA protocol and required no diazepam. 

# Nicotine dependence:
The patient has a >150 pack-year history. He was Counseled on 
smoking cessation while I house.

# GERD: 
The patient was continued on home pantoprazole

================
CHRONIC ISSUES: 
================

# COPD: The patient has a known history of COPD. He states he 
has been taking his inhalers at home. He should continue to take 
his inhalers as directed.

Transitional Issues:
====================

[ ] Please continue to encourage patient to stop smoking.
[ ] Would recommend counseling for possible alcohol use 
disorder. 

CODE STATUS: Full (presumed)
CONTACT: ___, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 
2. Metoprolol Tartrate 12.5 mg PO BID 
3. Atorvastatin 80 mg PO QPM 
4. Narcan (naloxone) 4 mg/actuation nasal ONCE:PRN 
5. Aspirin 81 mg PO DAILY 
6. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 2 
puffs 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN Chest pain 
8. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0 
6.  Narcan (naloxone) 4 mg/actuation nasal ONCE:PRN  
7.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN Chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually every 5 
minutes Disp #*60 Tablet Refills:*0 
8.  Pantoprazole 40 mg PO Q24H  
9.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 2 
puffs  
10.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
Tobacco use
Non-angina Chest Pain

Secondary Diagnosis:
====================
COPD
GERD
Alcohol Abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had chest pain.   

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We did a test of your heart called a stress test and it showed 
that your heart is healthy.
- We made an appointment for you to see your PCP and cardiology 
soon as listed below.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___